* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 68k
V1 0 N001 4.5
R4 N002 N003 15
R1 N003 N004 10k
R3 N003 N005 10k
V2 N005 0 10
R5 N004 N005 68k

.end