* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 3.9k
V1 N001 0 5
R4 N002 N003 47k
R1 N003 N004 10k
R3 N003 N005 25k
V2 0 N005 10
R5 N004 N005 10k

.end